US07960552B2
A solution of methyl 3-{[(1,1-dimethylethyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolecarboxylate (2.00 g, 7.83 mmol) in dichloromethane (32.5 mL) was stirred at 0° C. as trifluoroacetic acid (32.5 mL, 0.42 mol) was added dropwise. The resulting solution was allowed to stir at 0° C. for 5 minutes then at room temperature for 30 minutes. The solution was concentrated and the residue was partitioned between ethyl acetate and saturated aqueous NaHCO3. The organic layer was dried with MgSO4, filtered and concentrated. The residue was purified by chromatography (silica gel, hexane to 2:3 ethyl acetate:hexanes). Fractions containing methyl 3-(hydroxymethyl) -5-(1-methylethyl)-4-isoxazolecarboxylate were combined and concentrated. A solution of methyl 3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolecarboxylate (1.042 g, 5.23 mmol) in dichloromethane (24.3 mL) was stirred as carbon tetrabromide (1.85 g, 5.5 mmol) was added. The solution was cooled in ice bath before the addition of triphenyl phosphine (1.44 g, 5.5 mmol) in three portions. The solution was allowed to stir at 0° C. for 30 minutes then at room temperature for 1.5 hours. Hexane (67 mL) was added before the mixture was filtered through Celite® and concentrated. The residue was purified by chromatography (silica gel, hexane to 1:4 ethyl acetate:hexanes). Fractions containing the product were combined and concentrated to yield methyl 3-(bromomethyl)-5-(1-methylethyl)-4-isoxazolecarboxylate (0.809 g, 57% as 0.10 ethyl acetate). 1H NMR (400 MHz, DMSO-d6): δ 4.70 (s, 2H), 3.82 (s, 3H), 3.69 (septet, J=7 Hz, 1H), 1.26 (d, J=7 Hz, 6H). ESI-LCMS m/z 262 (M+H)+.

reactant | methyl 3-{[(1,1-dimethylethyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolecarboxylate | 7.83 mmol, 2.00 g | CC(C)(C)OCC1=NOC(=C1C(=O)OC)C(C)C | C13H21NO4
reactant | trifluoroacetic acid | 0.42 mol, 32.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolecarboxylate | 5.23 mmol, 1.042 g | OCC1=NOC(=C1C(=O)OC)C(C)C | C9H13NO4
reactant | carbon tetrabromide | 5.5 mmol, 1.85 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenyl phosphine | 5.5 mmol, 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 32.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 24.3 mL | ClCCl | CH2Cl2
solvent | Hexane | 67 mL | CCCCCC | C6H14
product | methyl 3-(bromomethyl)-5-(1-methylethyl)-4-isoxazolecarboxylate | 0.809 g, 57% | BrCC1=NOC(=C1C(=O)OC)C(C)C | C9H12BrNO3
